US05523278
Preparation of Methyl 2-[(5-amino-6-chloro-1,2-benzisoxazol-3-yl)oxy]propionate, hydrochloride salt
A suspension of methyl 2-[(6-chloro-5-nitro-1,2-benzisoxazol-3-yl)oxy]propionate (2.0 g, 6.7 mmol), 5% palladium on activated carbon (0.1 g) and concentrated hydrochloric acid (0.6 mL) in ethanol is hydrogenated until 430 mL of hydrogen is taken up. The reaction mixture is then filtered through diatomaceous earth and concentrated in vacuo to give the title product as a brown gum which is identified by NMR spectral analyses.

reactant | methyl 2-[(6-chloro-5-nitro-1,2-benzisoxazol-3-yl)oxy]propionate | 6.7 mmol, 2.0 g | ClC1=CC2=C(C(=NO2)OC(C(=O)OC)C)C=C1[N+](=O)[O-] | C11H9ClN2O6
reactant | hydrochloric acid | 0.6 mL | Cl | ClH
reactant | hydrogen | 430 mL | [H][H] | H2
catalyst | palladium on activated carbon | 0.1 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Methyl 2-[(5-amino-6-chloro-1,2-benzisoxazol-3-yl)oxy]propionate, hydrochloride salt | Cl.NC=1C(=CC2=C(C(=NO2)OC(C(=O)OC)C)C1)Cl | InChI=1S/C11H11ClN2O4.ClH/c1-5(11(15)16-2)17-10-6-3-8(13)7(12)4-9(6)18-14-10;/h3-5H,13H2,1-2H3;1H
